US07943622B2
5-Methyloxazolo[4,5-b]pyridine-2(3H)-thione
Ammonium formate (1.64 g, 26 mmol) was added to a suspension of Pd(OH)2 on carbon (˜20% Pd, 0.73 g, 1.0 mmol) and 2-nitro-3-hydroxy-6-methylpyridine (2.0 g, 13 mmol) in EtOH (20 mL). The reaction mixture was heated to 70° C. for 1 h at which point the reaction mixture was allowed to cool to rt and was filtered through Celite®. The filtrate was concentrated under reduced pressure, yielding a thick orangish oil. The material was dissolved in EtOH (25 mL) and potassium hydroxide (0.875 g, 15.6 mmol) and carbon disulfide (15 mL) were added. The reaction mixture was heated to reflux overnight. Upon cooling to rt, the reaction mixture was acidified with 1 N HCl, and the resulting solid was collected by filtration. The solid was washed with water (2×) and air dried followed by drying in a 35° C. vacuum oven. LC-MS: RT=5.58 min, [M+H]+=167.0.

reactant | Ammonium formate | 26 mmol, 1.64 g | C(=O)[O-].[NH4+]
reactant | 2-nitro-3-hydroxy-6-methylpyridine | 13 mmol, 2.0 g | [N+](=O)([O-])C1=NC(=CC=C1O)C | C6H6N2O3
reactant | potassium hydroxide | 15.6 mmol, 0.875 g | [OH-].[K+]
reactant | HCl | 1 N | Cl | ClH
reactant | carbon disulfide | 15 mL | C(=S)=S | CS2
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd(OH)2 on carbon | 1.0 mmol, 0.73 g | [OH-].[OH-].[Pd+2]
product | 5-Methyloxazolo[4,5-b]pyridine-2(3H)-thione | CC1=CC=C2C(=N1)NC(O2)=S | C7H6N2OS
